US05739127
4-Aminomethyl-N-(4-diethylaminoquinazolin-2-yl)-piperidine
A mixture of 4-(aminomethyl)-piperidine (1.2 g, 11 mmol), 2-chloro-4-diethylaminoquinazoline (2.5 g, 11 mmol) and Hunig's base (2.8 ml, 16 mmol) in 5 ml of butyronitrile was reacted for 12 hours at 100° C. After cooling, ethyl acetate (50 ml) and 50 ml of sodium hydroxide (10%) were added. The phases were separated and the aqueous phase was extracted with ethyl acetate (2×25 ml). The combined organic phases were dried (Na2SO4), concentrated on a rotary evaporator and purified by chromatography on silica gel (eluent: methylene chloride/ethanol/ammonia, 50/10/1) to give the free base as a thick orange-brown oil.

reactant | 4-(aminomethyl)-piperidine | 11 mmol, 1.2 g | NCC1CCNCC1 | C6H14N2
reactant | 2-chloro-4-diethylaminoquinazoline | 11 mmol, 2.5 g | ClC1=NC2=CC=CC=C2C(=N1)N(CC)CC | C12H14ClN3
reactant | Hunig's base | 16 mmol, 2.8 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | butyronitrile | 5 ml | C(CCC)#N | C4H7N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-Aminomethyl-N-(4-diethylaminoquinazolin-2-yl)-piperidine | NCC1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)N(CC)CC | C18H27N5
